US06093732
N-[(4-Chlorophenyl)methyl]-4-hydroxy-6-methyl-3-quinoline-carboxamide
A mixture of 230 mg of ethyl 4-hydroxy-6-methyl-3-quinolinecarboxylate (J. Chem. Soc., 893 (1948)) and 0.7 mL of 4-chlorobenzylamine is stirred for 1 h at 210 ° C. The mixture is cooled to 25° C. and it is diluted with 1.5 mL of toluene. The mixture is filtered and the filtrant is dissolved in a minimum volume of refluxing glacial acetic acid. The hot solution is treated with distilled water dropwise until it becomes cloudy, and it is allowed to cool to 25° C. The precipitate is collected by filtration and it is washed with a small amount of dilute aqueous acetic acid. The solid is dried for 48 h at 20 torr and 85° C. This procedure gives the title compound as 47 mg of a light tan solid.

reactant | ethyl 4-hydroxy-6-methyl-3-quinolinecarboxylate | 230 mg | OC1=C(C=NC2=CC=C(C=C12)C)C(=O)OCC | C13H13NO3
reactant | 4-chlorobenzylamine | 0.7 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-[(4-Chlorophenyl)methyl]-4-hydroxy-6-methyl-3-quinoline-carboxamide | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC=C(C=C2C1O)C | C18H15ClN2O2
